US06284756B1
Preparation of 4-[4-[6-Hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophen-2-yl]phenoxy]butanol Oxalate
The 4-[4-[6-benzyloxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophen-2-yl]phenoxy]butanoic acid methyl ester prepared in Part A (91 mg; 0.14 mmol) was dissolved in anhydrous THF under argon atmosphere. LAH (10 mg; 0.29 mmol) was added. The mixture was stirred at room temperature for 3 h before it was hydrolyzed by addition of 2 drops of water, 2 drops of 5 M NaOH, and six drops of water. Additional water (25 mL) was added, and extraction was carried out with CH2Cl2. The combined organics were dried by passage through Na2SO4. Purification was effected by flash chromatography on silica gel, eluting with EtOAc(100-90%)/Et3N(0-5%)/MeOH(0-5%). The title product was obtained as a colorless oil (74 mg, 85%).

reactant | 4-[4-[6-benzyloxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophen-2-yl]phenoxy]butanoic acid methyl ester | COC(CCCOC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OCC2=CC=CC=C2)CC2=CC(=C(C=C2)CN2CCCC2)OC)=O | C39H41NO5S
reactant | LAH | 0.29 mmol, 10 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 25 mL | O | H2O
reactant | THF | C1CCOC1 | C4H8O
catalyst | water | 2 drops | O | H2O
catalyst | NaOH | 5 M, 2 drops | [OH-].[Na+]
catalyst | water | six drops | O | H2O
product | 4-[4-[6-Hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophen-2-yl]phenoxy]butanol Oxalate | C(C(=O)O)(=O)O.OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)OC)C2=CC=C(OCCCCO)C=C2)C1 | InChI=1S/C31H35NO4S.C2H2O4/c1-35-29-19-22(6-7-24(29)21-32-14-2-3-15-32)18-28-27-13-10-25(34)20-30(27)37-31(28)23-8-11-26(12-9-23)36-17-5-4-16-33;3-1(4)2(5)6/h6-13,19-20,33-34H,2-5,14-18,21H2,1H3;(H,3,4)(H,5,6)
